Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cleaning agents / lisinopril
 
Attending: ___.
 
Chief Complaint:
?unresponsive episode following PEG placement
 
Major Surgical or Invasive Procedure:
PEG placement ___
 
History of Present Illness:
PRIMARY ONCOLOGIST: Dr. ___

PRIMARY DIAGNOSIS: Squamous Cell Carcinoma of the Supraglottic
Larynx

TREATMENT REGIMEN: None Currently

CC: Concern for ___

Ms. ___ is a ___ female with recently diagnosed
squamous cell carcinoma of the supraglottic larynx, CAD s/p
NSTEMI with stents, COPD, hypothyroidism, and tobacco use who is
admitted following PEG tube placement with concern for seizure.

Patient presented today for planned PEG placement given weight
loss and plan for upcoming chemoradiation. She had port placed
yesterday. During the procedure, MAC was converted into GA due 
to
low sats. PEG tube was placed successfully without immediate
complication. However, during recovery there was concern that
patient had a seizure. I did not personally receive signout from
any witnesses of this event. However, the patient reports that
she remembers going into the recovery room. She was then talking
to her nurse. She remembers being able to hear her nurse but was
unable to respond. She then remembers her "whole body shaking".
She then blacked out and remembers waking up in another room. 
She
initially felt a little confused but now feels back to her 
normal
self. She denies any prior history of seizures. She is able to
eat and is not on a special diet.

On arrival to the floor, patient reports ___ chronic throat
pain. She feels hungry and notes mild abdominal pain at the site
of the tube placement. She notes continued hemoptysis and mild
nausea. She is constipated, last bowel movement four days ago.
She notes her urine is more orange. She denies fevers/chills,
night sweats, headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, cough, chest pain, palpitations, vomiting, diarrhea,
hematemesis, hematochezia/melena, dysuria, hematuria, and new
rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

PAST ONCOLOGIC HISTORY:
Mrs. ___ reports that she began having some trouble with 
throat
pain and hoarseness around ___. She was found to have a
vocal cord polyp which was "shaved off." Since then the
hoarseness was found to be getting worse. She also developed 
some
hemoptysis which was thought potentially related to Plavix. It
tends to improve when she is off the Plavix. Her throat pain was
treated with antibiotics and steroids without any improvement.
She describes this as 10 out of 10 at worst improving to 7 out 
of
10 with hydrocodone-acetaminophen which she has been prescribed
recently. She also mentions that her ears hurt more on the right
than the left and there is a shooting pain coming from the back
of her throat. She has been seeing Dr. ___ for this problem. Office laryngoscopy was noted 
to
be normal. In ___ she had a CT of the chest to evaluate
hemoptysis which did not find any cause. There were no 
suspicious
nodules noted on the CT. On ___ she had a CT of 
the
neck which showed that the epiglottis and aryepiglottic folds
were nodular and thickened, hyperenhancing with associated loss
of the preepiglottic and paraglottic fat concerning for a mass
lesion measuring approximately 3.8 x 1.2 x 2.1 cm with 
concentric
circumferential thickening of the hypopharynx measuring
approximately 4 mm in greatest thickness and involving the
supraglottic region. This extends to involve the superior aspect
of the glottis. A left level 2A cystic/necrotic lymph node
measuring 1.8 x 1.1 cm was noted. Several other lymph nodes were
noted to be more prominent on the left than on the right. A
direct laryngoscopy was performed on ___. This
noted an unremarkable lingual surface of the epiglottis though
somewhat thickened and edematous. Along the laryngeal surface of
the epiglottis nodularity and irregularity of the mucosa was
noted and a biopsy was taken. Frozen section showed squamous 
cell
carcinoma. The vocal cords appeared to be normal. The area
epiglottic folds and arytenoids bilaterally are edematous and
nodular. Several additional biopsies were taken.

 
Past Medical History:
- CAD s/p NSTEMI with DES to the mid-LCX and mid RCA complicated
by dissection status post DES to RCA
- COPD
- Hypothyroidism after thyroidectomy for papillary cancer, early
stage no adjuvant treatment per patient
- Appendectomy
- Kidney stones, urinary stents
- Hypertension
- Multiple urinary tract infections
- Tonsillectomy
- Tobacco Use
- Depression/Anxiety
 
Social History:
___
Family History:
Maternal grandfather with colon cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 98.5, BP 114/75, HR 75, RR 18, O2 sat 95% RA.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds, PEG
tube in place.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact. Able to state ___ backwards.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
98.5 BP:123/73 HR:60 18 93 Ra  
GENERAL: Pleasant woman, in no distress, walking around room, 
sitting in chair comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, slightly tender, non-distended, positive bowel 
sounds, PEG tube in place.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
Skin: No rashes

 
Pertinent Results:
___ 10:55PM   GLUCOSE-108* UREA N-9 CREAT-0.4 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 10:55PM   estGFR-Using this
___ 10:55PM   ALT(SGPT)-12 AST(SGOT)-15 ALK PHOS-154* TOT 
BILI-0.5
___ 10:55PM   ALBUMIN-4.1 CALCIUM-9.0 PHOSPHATE-2.5* 
MAGNESIUM-1.7
___ 10:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:55PM   WBC-11.4* RBC-4.12 HGB-9.3*# HCT-30.1* 
MCV-73*# MCH-22.6*# MCHC-30.9* RDW-18.6* RDWSD-48.7*
___ 10:55PM   PLT COUNT-329
___ 10:55PM   ___ PTT-30.2 ___

Head CT scan: ___
IMPRESSION: 
1. No acute intracranial process. 
2. No CT evidence of metastasis.  MRI of the brain with contrast 
is more 
sensitive for the evaluation of intracranial metastatic disease. 


 
Brief Hospital Course:
 Ms. ___ is a ___ female with recently 
diagnosed squamous cell carcinoma of the supraglottic larynx, 
CAD s/p NSTEMI with stents, COPD, hypothyroidism, and tobacco 
use who is admitted following PEG tube placement with concern 
for seizure.

# Unresponsive episode:
Discussed episode with attending anesthesiologist. Patient had 
GA for PEG placement. Was fine in PACU and then had episode of 
unresponsiveness. She required bag-mask ventilation but quickly 
recovered without intervention or administration of medications 
and was at her baseline mental status. She had a Head CT which 
had no acute findings. Labs were checked and reveal anemia and 
slightly elevated white blood cell count. Her tox screen was 
positive for opiates for what she is  On review, it is unlikely 
that her episode was due to seizure and more likely to a vagal 
episode or to effects of anesthesia. She was advised to return 
to the hospital if she has recurrent episodes.

# Squamous Cell Carcinoma of the Supraglottic Larynx: 
Plan is to start definitive chemoradiation on ___. Admitted 
for feeding tube placement. She was seen by SLP while here and 
continued a soft diet with thin liquids. Confirmed with oncology 
office that they have arranged for nutrition and tube feeds for 
the patient after discharge.  

# Cancer-Related Throat Pain
- Continued home oxycodone and tylenol

# COPD
- Continued home advair, Spiriva, and nebs

# CAD s/p s/p NSTEMI with Stents
# Hyperlipidemia
# Hypertension
- Continued home aspirin, atorvastatin, and metoprolol

# Hypothyroidism
- Continued home levothyroxine

# Anxiety  
- Continude Ativan and Seroquel

Transitional issues:
- follow up with oncologist already arranged
- full code
EMERGENCY CONTACT HCP: ___ (husband) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortnes of 
breath/wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath/wheezing 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Loratadine 10 mg PO DAILY:PRN allergies 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Nicotine Patch 14 mg TD DAILY:PRN cravings 
11. QUEtiapine Fumarate 50 mg PO QHS 
12. Sodium Chloride Nasal ___ SPRY NU QID:PRN sinus congestion 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Vitamin D ___ UNIT PO DAILY 
15. LORazepam 1 mg PO DAILY:PRN anxiety 
16. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
17. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
18. Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain 
19. OxycoDONE Liquid ___ mg PO Q4H:PRN Pain - Moderate 
20. Senna 8.6 mg PO BID:PRN constipation 
21. Docusate Sodium 100 mg PO BID:PRN constipation 
22. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortnes of 
breath/wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID:PRN constipation  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath/wheezing  
9.  Levothyroxine Sodium 100 mcg PO DAILY  
10.  Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain  
11.  Loratadine 10 mg PO DAILY:PRN allergies  
12.  LORazepam 1 mg PO DAILY:PRN anxiety  
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Nicotine Patch 14 mg TD DAILY:PRN cravings  
15.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
16.  OxycoDONE Liquid ___ mg PO Q4H:PRN Pain - Moderate  
17.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
18.  QUEtiapine Fumarate 50 mg PO QHS  
19.  Senna 8.6 mg PO BID:PRN constipation  
20.  Sodium Chloride Nasal ___ SPRY NU QID:PRN sinus congestion  

21.  Tiotropium Bromide 1 CAP IH DAILY  
22.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PEG placement
Squamous cell ___ of the Supraglottic larynx
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your 
hospitalization. You were admitted for monitoring after your PEG 
placement. You had an episode where you had some difficulty 
breathing after your procedure. We do not think you had a 
seizure. You were monitored overnight and remained stable.

You should follow up with your oncologist as scheduled. 

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___